US05484955
A mixture of 13.0 g of methyl 1-(2'-cyanobiphenyl-4-yl)methyl-2-ethoxybenzimidazole-7-carboxylate, 47.1 g of trioctyltin azide (tri-n-octyltin azide) and 60 ml of toluene was refluxed at 125° C. for 31 hours. After cooling, the reaction mixture was concentrated. To the concentrate was added 56 ml of ethanol as well as an aqueous solution of sodium nitrite (7.7 g/28 ml) and the mixture was adjusted to pH 5 with concentrated hydrochloric acid. Then, 31 ml of ethyl acetate was added. The mixture was further adjusted to pH 1.1 with concentrated hydrochloric acid, diluted with 20 ml of n-hexane and adjusted to pH 3.3 with 1N aqueous sodium hydroxide solution. The crystals were separated, washed with ethyl acetate/n-hexane mixture (1:3) and dried to provide 14.56 g of methyl 2-ethoxy-1-[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methylbenzimidazole-7carboxylate. Yield 100%. 1H NMR (CDCl3) δ: 1.42 (3H, t), 3.56 (3H, s), 4.27 (2H, q), 5.54 (2H, s), 6.70 (2H, d), 6.78-6.95 (4H, m), 7.28-7.33 (1H, m), 7.40 (1H, dd), 7.56-7.66 (2H, m), 8.02-8.06 (1H, m)

reactant | methyl 1-(2'-cyanobiphenyl-4-yl)methyl-2-ethoxybenzimidazole-7-carboxylate | 13.0 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC2=C1C(=CC=C2)C(=O)OC)OCC | C25H21N3O3
reactant | trioctyltin azide | 47.1 g | C(CCCCCCC)[Sn](CCCCCCCC)(CCCCCCCC)N=[N+]=[N-]
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 2-ethoxy-1-[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methylbenzimidazole-7carboxylate | 14.56 g, Yield 100% | C(C)OC1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C(=CC=C2)C(=O)OC | C25H22N6O3
